US06566367B2
Reflux 6-bromo-1,3-dihydro-imidazo[4,5-b]pyridin-2-one (5 g) for 14 h in POCl3 (50 mL). Evaporate the solvent in vacuo, then carefully neutralize with saturated NaHCO3, and extract with EtOAc. Dry over Na2SO4, concentrate under vacuum, and purify by flash chromatography (1 :1 hexanes/EtOAc) to obtain 6-bromo-2-chloro-3H-imidazo[4,5-b]pyridine.

reactant | 6-bromo-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 5 g | BrC=1C=C2C(=NC1)NC(N2)=O | C6H4BrN3O
reactant | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-bromo-2-chloro-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)Cl | C6H3BrClN3
